US07557127B2
To a solution of (2E)-3-(6-{[(3R)-1-phenyl-3-pyrrolidinyl]amino}-3-pyridinyl)acrylic acid hydrochloride (37 mg), O-tetrahydro-2H-pyran-2-ylhydroxylamine (19 mg), and 1-hydroxybenzotriazole (22 mg) in N,N-dimethylformamide (1 mL) was added 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide (25 mg) at 4° C. The mixture was warmed to ambient temperature and stirred for 8 hours. The reaction mixture was added saturated NaHCO3 (1 mL) and water (4 mL). A resulting precipitate was collected by filtration, and washed with water to give (2E)-3-(6-{[(3R)-1-phenyl-3-pyrrolidinyl]amino}-3-pyridinyl)-N-(tetrahydro-2H-pyran-2-yloxy)acrylamide (43 mg).

reactant | (2E)-3-(6-{[(3R)-1-phenyl-3-pyrrolidinyl]amino}-3-pyridinyl)acrylic acid hydrochloride | 37 mg | Cl.C1(=CC=CC=C1)N1C[C@@H](CC1)NC1=CC=C(C=N1)/C=C/C(=O)O
reactant | O-tetrahydro-2H-pyran-2-ylhydroxylamine | 19 mg | O1C(CCCC1)ON | C5H11NO2
reactant | 1-hydroxybenzotriazole | 22 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide | 25 mg | CN(CCCN=C=NCC)C | C8H17N3
reactant | NaHCO3 | 1 mL | C(=O)(O)[O-].[Na+]
solvent | N,N-dimethylformamide | 1 mL | CN(C=O)C | C3H7NO
solvent | water | 4 mL | O | H2O
product | (2E)-3-(6-{[(3R)-1-phenyl-3-pyrrolidinyl]amino}-3-pyridinyl)-N-(tetrahydro-2H-pyran-2-yloxy)acrylamide | 43 mg | C1(=CC=CC=C1)N1C[C@@H](CC1)NC1=CC=C(C=N1)/C=C/C(=O)NOC1OCCCC1 | C23H28N4O3
